US09034880B2
Preparation of 5-[2-(6-Ethyl-pyridin-3-yl)-ethyl]-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (Compound 359)
To a solution of 2,8-Dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.15 g. 0.749 mmol) in N-methyl 2-pyrolidone (1.2 mL) was added powdered potassium hydroxide (0.42 g, 7.49 mmol) and allowed to stir for 10 min at RT. 2-Ethyl-5-vinyl-pyridine (0.299 g, 2.24 mmol) was added and stirred for further 18 h. at 100 deg C. After completion (TLC), reaction mixture was diluted with water (15 mL) and extracted with ethyl acetate (3×50 mL). The organic layer was dried over anhydrous sodium sulphate and concentrated under reduced pressure. The crude was purified through column chromatography (7% MeOH:DCM in silica 100-200 mesh, Diameter of column 2.5 cm, Height of silica—approx. 5 inch), Then further purified by preparative TLC, to give the desired compound as yellow oil (0.045 g, 18% yield). 5-[2-(6-Ethyl-pyridin-3-yl)-ethyl]-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.040 g, 0.12 mol) was dissolved in THF (1.0 mL). A solution of oxalic acid dihydrate (0.012 g, 0.096 mol) in THF (1.0 mL) was added and stirred for 30 min at RT, Precipitate obtained was filtered and dried to give oxalate salt as off white solid (0.030 g, 60% yield).

reactant | 2,8-Dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.749 mmol, 0.15 g | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | potassium hydroxide | 7.49 mmol, 0.42 g | [OH-].[K+]
reactant | 2-Ethyl-5-vinyl-pyridine | 2.24 mmol, 0.299 g | C(C)C1=NC=C(C=C1)C=C | C9H11N
solvent | N-methyl 2-pyrolidone | 1.2 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 15 mL | O | H2O
product | 5-[2-(6-Ethyl-pyridin-3-yl)-ethyl]-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.045 g, 18% yield | C(C)C1=CC=C(C=N1)CCN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C22H27N3
